US06057329
2-(2-Acetamidoethylamino)-5-aminopyridine
A suspension of 2-(2-acetamidoethylamino)-5-nitropyridine (4.0 g, 17.86 mmol) in ethanol-water (3:1, 160 ml) was shaken with 10% palladium on charcoal (400 mg) under an atmosphere of hydrogen for 5 h then filtered through Celite™ and the filtrate concentrated. The residue was subjected to column chromatography (silica, 3-10% methanol--CH2Cl2) to afford the title compound (1.52 g) as an air-sensitive deep mauve gum. MS (ES+) 195 (MH+). δH (d6DMSO) 7.89 (1H, br s), 7.45 (1H, d, J 2.5 Hz), 6.82 (1H, dd, J 2.5, 8.7 Hz), 6.28 (1H, d, J 8.7 Hz), 5,60 (1H, br s), 4.34 (2H, br s), 3.16 (4H, m) and 1.79 (3H, s).

reactant | 2-(2-acetamidoethylamino)-5-nitropyridine | 17.86 mmol, 4.0 g | C(C)(=O)NCCNC1=NC=C(C=C1)[N+](=O)[O-] | C9H12N4O3
solvent | ethanol water | 160 ml | C(C)O.O
catalyst | palladium on charcoal | 400 mg | [Pd] | Pd
product | 2-(2-Acetamidoethylamino)-5-aminopyridine | 1.52 g | C(C)(=O)NCCNC1=NC=C(C=C1)N | C9H14N4O
